US04287341
A. N-(2-Tetrahydrofuroyl)homopiperazine
N-[2-Furoyl)homopiperazine (33.0 g.) in 200 ml. of ethanol was hydrogenated over 5% rhodium-on-carbon catalyst at three atmospheres pressure. The catalyst was removed by filtration and the product distilled to give the desired product, B.P. 135° at 1 mm.

reactant | N-[2-Furoyl)homopiperazine | 33.0 g | O1C(=CC=C1)C(=O)N1CCNCCC1 | C10H14N2O2
catalyst | rhodium-on-carbon | [Rh] | Rh
solvent | ethanol | C(C)O | C2H6O
product | N-(2-Tetrahydrofuroyl)homopiperazine | O1C(CCC1)C(=O)N1CCNCCC1 | C10H18N2O2
